Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
Incisional hernia reduction and repair

 
History of Present Illness:
Mr. ___ is a ___ with a history of an open appendectomy 
with a midline incision ___ years ago who comes to the ED with 
several days of nausea and vomiting and pain at the site of his 
previous incision.  He states that he has been having nausea for 
several days and has had several episodes of emesis and that, 
during one of his episodes of emesis, he felt a "pop" along his 
incision followed by increasingly more severe abdominal pain. He 
came to the ___ ED where he had a CT abdomen/pelvis that 
showed a left sided UPJ stone as well as a midline incisional 
hernia containing some omental fat.  ACS is consulted for 
possible operative management of the incisional hernia.  

 
Past Medical History:
Past Medical History:  Significant for hypercholesterolemia,
hypertension, and anxiety.

Surgical History:  Procedure for management of renal lithiasis
and sinus surgery, open appendectomy

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses, midline incsion 
c/d/i
Ext: No ___ edema, ___ warm and well perfused

 
Pertinent Results:
___ 07:00PM BLOOD WBC-10.9 RBC-5.18 Hgb-16.2 Hct-44.9 
MCV-87 MCH-31.3 MCHC-36.1* RDW-13.5 Plt ___
___ 07:00PM BLOOD Neuts-67.3 ___ Monos-6.1 Eos-2.2 
Baso-0.5
___ 09:30PM BLOOD Na-138 K-4.3 Cl-106
___ 07:00PM BLOOD Glucose-82 UreaN-15 Creat-0.6 Na-136 
K-9.0* Cl-107 HCO3-17* AnGap-21*
___ 07:00PM BLOOD ALT-47* AST-107* AlkPhos-65 TotBili-0.5
___ 07:00PM BLOOD Lipase-45
___ 07:00PM BLOOD Albumin-4.7

___   ___ 9:___BD & PELVIS WITH CONTRAST   Clip # ___   
Reason: eval for ventral/umbilical hernia, panreatitis or other 
intr 
Contrast: OMNIPAQUE 
 

 
UNDERLYING MEDICAL CONDITION: 
   History: ___ with nausea, epigastric pain, and abdominal pain 
localized around  
   appendectomy scar with small umbilical hernia on exam 
REASON FOR THIS EXAMINATION: 
   eval for ventral/umbilical hernia, panreatitis or other 
intraabdominal process.  
   IV contrast only-no need for oral contrast. 
CONTRAINDICATIONS FOR IV CONTRAST: 
   None. 

 
 
Wet Read: ___ ___ 10:18 ___ 
1. 3.5 mm left UVJ stone, but no hydroureter or hydronephrosis. 
2. Small umibilical and supraumbilical fatcontaining anterior 
abdominal wall 
hernias. 
  

 
Brief Hospital Course:
Pt was admitted to the acute care surgery service on ___ 
after feeling a pop along an old surgical incision. CT of the 
abdomen and pelvis showed a left sided ___ ED where he had a 
CT abdomen/pelvis that showed a left sided UPJ stone as well as 
a midline incisional hernia containing some omental fat 
concerning for incarceration and strangulation. He was taken to 
the OR for reduction and repair of his incisional hernia. He 
tolerated the procedure well, was extubated and taken to the 
PACU for recovery in stable condition. For full details of the 
procedure please see the operative report. After the procedure 
his diet was advanced, his pain was controlled with PO pain 
medications and his home medications were restarted. On ___ 
he was discharged to home with instructions to follow up in the 
acute care surgery clinic. At the time of his discharge he was 
ambulating, his pain was well controlled and he was tolerating a 
regular diet.
 
Medications on Admission:
simvastatin 80', clonidine 0.5''', klonipin 1''', percocet

 
Discharge Medications:
1. Simvastatin 80 mg PO DAILY 
2. Nicotine Patch 14 mg TD DAILY 
RX *nicotine 14 mg/24 hour Please apply patch to bare area of 
skin daily Disp #*30 Not Specified Refills:*0
3. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*30 Tablet Refills:*1
4. Clonazepam 1 mg PO Q8H:PRN anxiety 
5. Acetaminophen 650 mg PO Q6H 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every 6 hours Disp 
#*30 Tablet Refills:*1
6. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every 6 hours Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Incarcerated incisional hernia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr ___ you were admitted to ___ with a new umbilical 
hernia and fat containing incisional hernia concerning for 
incarceration and strangulation. You were taken to the operating 
room for reduction and repair of your incisional hernia. You 
tolerated the procedure well and are being discharged to home.

Please call your doctor or go to the emergency department if:
*You experience new chest pain, pressure, squeezing or 
tightness.
*You develop new or worsening cough, shortness of breath, or 
wheeze.
*You are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons.  Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience an unusual discharge.
*Your pain is not improving within 12 hours or is not under 
control within 24 hours.
*Your pain worsens or changes location.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*You develop any concerning symptoms.
 
General Discharge Instructions:
Please resume all regular home medications, unless specifically 
advised not to take a particular medication.  Please take any 
new medications as prescribed.
Please take the prescribed analgesic medications as needed.  You 
may not drive or heavy machinery while taking narcotic analgesic 
medications.  You may also take acetaminophen (Tylenol) as 
directed, but do not exceed 4000 mg in one day.
Please get plenty of rest, continue to walk several times per 
day, and drink adequate amounts of fluids.  Avoid strenuous 
physical activity and refrain from heavy lifting greater than 20 
lbs., until you follow-up with your surgeon, who will instruct 
you further regarding activity restrictions.  Please also 
follow-up with your primary care physician.
 
Incision Care:
*Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site.
*Avoid swimming and baths until cleared by your surgeon.
*You may shower and wash incisions with a mild soap and warm 
water.  Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.

 
Followup Instructions:
___